* Day 5 isolated DUT: m7_l2
* DAY5_MANIFEST_SHA256=89f886ce2a150b84945a5378f29c2d4ee3faa5ef832876aeb122deb05e01391e
* Frozen topology; candidate geometry only. CC=3e-12 F; RZ=2000 ohm.
.subckt OTA VDD VSS VINP VINN VOUT VBP
XM8  VBP  VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.8 W=7.22005 nf=1 mult=1
XM9  VBN  VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.8 W=7.22005 nf=1 mult=1
XM10 VBN  VBN VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=8.08605 nf=1 mult=1
XM1  NMIR VINN TAIL VSS sky130_fd_pr__nfet_01v8 L=0.5 W=16.83798 nf=1 mult=1
XM2  VX   VINP TAIL VSS sky130_fd_pr__nfet_01v8 L=0.5 W=16.83798 nf=1 mult=1
XM3A NMIR NMIR VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=25 nf=1 mult=1
XM3B NMIR NMIR VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=25 nf=1 mult=1
XM4A VX   NMIR VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=25 nf=1 mult=1
XM4B VX   NMIR VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=25 nf=1 mult=1
XM5  TAIL VBN  VSS VSS sky130_fd_pr__nfet_01v8 L=0.8 W=25.8754 nf=1 mult=1
XM6  VOUT VX   VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=8.83907427041 nf=1 mult=1
XM7  VOUT VBP  VDD VDD sky130_fd_pr__pfet_01v8 L=1.6 W=72.2005 nf=1 mult=2
RZ1 VX NCC 2000
CC1 NCC VOUT 3e-12
.ends OTA
